US06706712B2
The material from above 1-(N-benzyloxycarbonyl)-cis-cyclohexane-1,2-diamine (5 g) was dissolved in DMF (100 mL). After cooling to 0° C., 4-methylmorpholine (11 mL) and N-Boc-Gly-OH (4.2 g) were added. BOP Reagent (11.6 g) was added, and the mixture was stirred at rt for 18 h. The DMF was removed. EtOAc was added along with 1 N HCl solution. The EtOAc layer was washed with 1 N HCl, NaHCO3 solution, and brine. The EtOAc was dried (MgSO4), filtered, and concentrated to give cis-[2[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]amino]cyclohexyl]-carbamic acid benzyl ester (9.6 g). MS found: (M+H)+=406.3.

reactant | 4-methylmorpholine | 11 mL | CN1CCOCC1 | C5H11NO
reactant | N-Boc-Gly-OH | 4.2 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | BOP Reagent | 11.6 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | cis-[2[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]amino]cyclohexyl]-carbamic acid benzyl ester | 9.6 g | C(C1=CC=CC=C1)OC(N[C@H]1[C@H](CCCC1)NC(CNC(=O)OC(C)(C)C)=O)=O | C21H31N3O5
